US03996282
A stirred solution of 24.6 parts of N-(2-dimethylaminoethyl)formamide and 30 parts of water was heated to 60° and over a period of one hour there was added 40.3 parts of 4-methoxy-3-nitrobenzylchloride. Heating between 60° and 65° C. was continued for three and one-half hours at which time the pH of the mixture stabilized above 7.0. To the cooled mixture was added 20 parts of water and the resulting mixture was clarified by filtration. An aqueous solution of N,N-dimethyl-N-(3-nitro-4-methoxybenzyl)-N-2-formamidoethylammonium chloride was obtained. This solution was used directly for reduction of the nitro group.

reactant | N-(2-dimethylaminoethyl)formamide | CN(CCNC=O)C | C5H12N2O
reactant | 4-methoxy-3-nitrobenzylchloride | COC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C8H8ClNO3
solvent | water | O | H2O
product | N,N-dimethyl-N-(3-nitro-4-methoxybenzyl)-N-2-formamidoethylammonium chloride | [Cl-].C[N+](CCNC=O)(CC1=CC(=C(C=C1)OC)[N+](=O)[O-])C | InChI=1S/C13H19N3O4.ClH/c1-16(2,7-6-14-10-17)9-11-4-5-13(20-3)12(8-11)15(18)19;/h4-5,8,10H,6-7,9H2,1-3H3;1H
